US07897607B2
2-(Dipropylamino)-5-mesityl-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
A Solution of 2-(dipropylamino)-5-mesityl-7-(4-methoxybenzyl)-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (100 mg, 0.21 mmol) in trifluoroacetic acid (3 ml) and anisole (0.1 ml) was refluxed for 3 days. The mixture was diluted with water (20 ml), neutralized with sodium hydrogen carbonate and extracted with ethyl acetate (20 ml×2). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (5:1) to give 12 mg (15%) of the title compound.

reactant | 2-(dipropylamino)-5-mesityl-7-(4-methoxybenzyl)-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.21 mmol, 100 mg | C(CC)N(C=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)CC2=CC=C(C=C2)OC)=O)C)CCC | C30H38N4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | 20 ml | O | H2O
product | 2-(Dipropylamino)-5-mesityl-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 12 mg, 15% | C(CC)N(C=1N(C(C2=C(N1)NC=C2C2=C(C=C(C=C2C)C)C)=O)C)CCC | C22H30N4O
